US07297701B2
5-Methoxyacetamidoindan
To a solution of 5-aminoindan (4.66 g, 35.0 mmol) in anhydrous DMF (26 ml) was slowly added methoxyacetyl chloride (5.70 g, 52.50 mmol) followed by pyridine (8.5 ml, 105.0 mmol). The red solution was stirred at room temperature for 3.5 hours under argon, then it was partitioned between ethyl acetate (200 ml) and 1N HCl (120 ml). The organic layer was washed with more 1N HCl (120 ml), brine (100 ml), dried (Na2SO4) and concentrated in vacuo. The residue was triturated with diethyl ether; the white precipitate was collected by filtration, washed with diethyl ether to afford the title compound (5.93 g, 83%), m.p. 104-105° C.; 1H-NMR (250 MHz, CDCl3, TMS) 2.06 (m, 2H, 2-CH2), 2.87 (m, 4H, 1-CH2 and 3-CH2), 3.50 (s, 3H, OCH3), 4.00 (s, 2H, 2-CH2OMe), 7.22 (m (overlap with CHCl3 peak), 2H, 6-H, 7-H), 7.52 (s, 1H, 4-H), 8.18 (s, 1H, CONH); MS (ESI, m/z): 432 [(2M+Na)+, 30%], 206[(M+H)+, 100%]; Found C, 70.10; H, 7.38; N, 6.81; C12H15NO2 requires C, 70.22; H, 7.37; N, 6.82%.

reactant | 5-aminoindan | 35.0 mmol, 4.66 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | methoxyacetyl chloride | 52.50 mmol, 5.70 g | COCC(=O)Cl | C3H5ClO2
reactant | pyridine | 105.0 mmol, 8.5 ml | N1=CC=CC=C1 | C5H5N
solvent | DMF | 26 ml | CN(C)C=O | C3H7NO
product | 5-Methoxyacetamidoindan | 5.93 g, 83% | COCC(=O)NC=1C=C2CCCC2=CC1 | C12H15NO2
